US04501860
Example 1 was repeated but substituting methyl carbazate (50 g, 0.55 mole) for the ethyl carbazate and using phosgene (75 ml, 1.13 mole) in dry ethyl acetate as solvent. Solvent was removed under reduced pressure at a bath temperature <60° C. and the product was re-dissolved in ethyl acetate, filtered to remove insoluble material and recovered by evaporation of the solvent in vacuo, giving 2-methoxycarbonylhydrazinecarbonyl chloride (77 g, 92%) mp 55°-58° C. The ir spectrum was similar to that of 2-ethoxycarbonylhydrazinecarbonyl chloride.

reactant | methyl carbazate | 0.55 mole, 50 g | C(NN)(=O)OC | C2H6N2O2
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
reactant | phosgene | 1.13 mole, 75 ml | C(=O)(Cl)Cl | CCl2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methoxycarbonylhydrazinecarbonyl chloride | 77 g, 92% | COC(=O)NNC(=O)Cl | C3H5ClN2O3
